US04794188
For compounds in which X is --NR2 --(CHR1)n --, the corresponding amino starting compounds are employed to form the desired amino coppound. Thus, 2-aminopyridine is condensed with 3-(1-hydroxyhexyl)benzyloromide to form 2-[3-(1-hydroxyhexyl)benzylamino]pyridine. Alternatively, 2-quinolylmethylbromide is condensed with 3-(1-hydroxyhexyl)aniline to form 2-[3-(1-hydoxyhexyl) anilinomethyl]quinoline.

reactant | 2-quinolylmethylbromide | N1=C(C=CC2=CC=CC=C12)CBr | C10H8BrN
reactant | 3-(1-hydroxyhexyl)aniline | OC(CCCCC)C=1C=C(N)C=CC1 | C12H19NO
product | 2-[3-(1-hydoxyhexyl) anilinomethyl]quinoline | OC(CCCCC)C=1C=C(NCC2=NC3=CC=CC=C3C=C2)C=CC1 | C22H26N2O
